US04755212
Preparation of 6-bromo-5-methyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
A suspension of 4.0 g (11 mmol) of 5-methyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide in 50 ml of glacial acetic acid and 10 ml of acetic anhydride was stirred at 90° C. for 30 minutes. N-Bromosuccinimide (2.4 g, 13 mmol) was added to this hot solution, and the reaction mixture was stirred at 90° C. for 60 minutes. The solution was cooled and poured into 200 ml of ice water. A solid which separated was collected and dried. This crude product was purified by dissolving the sample in methylene chloride, filtering the solution through silica gel and triturating the fitrate with pentane. The desired product was obtained as a solid, m.p. 215°-216° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 5-methyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 11 mmol, 4.0 g | CC1=NC=2N(C=C1)N=C(N2)S(=O)(=O)NC2=C(C=CC=C2Cl)Cl | C12H9Cl2N5O2S
reactant | N-Bromosuccinimide | 13 mmol, 2.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-bromo-5-methyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | BrC=1C(=NC=2N(C1)N=C(N2)S(=O)(=O)NC2=C(C=CC=C2Cl)Cl)C | C12H8BrCl2N5O2S
